US07214800B2
c) 2-(2-{1-[1-(3-Benzyl-7-chloro-4-oxo-3,4-dihydro-quinazolin-2-yl)-2-methyl-propyl]-2-p-tolyl-1H-imidazol-4-yl }-ethyl)-isoindole-1,3-dione
A solution of N-[1-(3-benzyl-7-chloro-4-oxo-3,4-dihydro-quinazolin-2-yl)-2-methyl-propyl]-N-[4-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-2-oxo-butyl]-4-methyl-benzamide (641 mg, 0.948 mmol) and ammonium acetate (3.65 g, 47.4 mmol) in acetic acid (30 mL) was refluxed for 6.0 h using a Dean-Stark trap and condenser. The reaction was concentrated in vacuo and the residue was triturated with water, dried in a Buchner funnel, and recrystallized from ethanol to provide the title compound as a white solid (320 mg, 51%). MS(ES+) m/e 656 [M+H]+.

reactant | N-[1-(3-benzyl-7-chloro-4-oxo-3,4-dihydro-quinazolin-2-yl)-2-methyl-propyl]-N-[4-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-2-oxo-butyl]-4-methyl-benzamide | 0.948 mmol, 641 mg | C(C1=CC=CC=C1)N1C(=NC2=CC(=CC=C2C1=O)Cl)C(C(C)C)N(C(C1=CC=C(C=C1)C)=O)CC(CCN1C(C2=CC=CC=C2C1=O)=O)=O | C39H35ClN4O5
reactant | ammonium acetate | 47.4 mmol, 3.65 g | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | 2-(2-{1-[1-(3-Benzyl-7-chloro-4-oxo-3,4-dihydro-quinazolin-2-yl)-2-methyl-propyl]-2-p-tolyl-1H-imidazol-4-yl }-ethyl)-isoindole-1,3-dione | 320 mg, 51% | C(C1=CC=CC=C1)N1C(=NC2=CC(=CC=C2C1=O)Cl)C(C(C)C)N1C(=NC(=C1)CCN1C(C2=CC=CC=C2C1=O)=O)C1=CC=C(C=C1)C | C39H34ClN5O3
